US07470680B2
6-(piperidin-4-yl)thieno[3,2-b]pyridin-5(4H)-one.
Tert-butyl 4-(1-hydroxy-3-methoxy-3-oxo-1-(3-pivalamidothiophen-2-yl)propan-2-yl)piperidine-1-carboxylate (10 g, 21.34 mmol) was dissolved in MeOH (20 mL), water (20.00 ml), hydrochloric acid (concentrated, 20 ml, 244 mmol), the resulting red pink solution was heated, the color changed to dark tan, and the mixture was refluxed in a oil bath under N2 over night, conversion was completed as determined by LC/MS. Most of the solvent was removed on rotary vacuo, the resulting gum type residue was triturate with EtOAc/MeOH (10 mL/2 mL), filtered and washed with EtOAC/MeOH (10 mL/1 mL) to afford the expected product, 6-(piperidin-4-yl)thieno[3,2-b]pyridin-5(4H)-one (4.85 g, 97%), as a brown solid. 1H-NMR (400 MHz, MeOD) δ ppm 1.83-1.94 (m, J=13.41, 13.13, 13.13, 3.90 Hz, 2 H) 2.13 (d, J=13.85 Hz, 2 H) 3.08-3.19 (m, 4 H) 3.50 (dd, J=10.58, 2.01 Hz, 2 H) 7.08 (d, J=6.04 Hz, 1 H) 7.78 (d, J=5.54 Hz, 1 H) 7.96 (s, 1 H); Mass spec. 235.16 (MH+), Calc. for C12H14N2OS 234.08.

reactant | Tert-butyl 4-(1-hydroxy-3-methoxy-3-oxo-1-(3-pivalamidothiophen-2-yl)propan-2-yl)piperidine-1-carboxylate | 21.34 mmol, 10 g | OC(C(C(=O)OC)C1CCN(CC1)C(=O)OC(C)(C)C)C=1SC=CC1NC(C(C)(C)C)=O | C23H36N2O6S
reactant | water | 20.00 ml | O | H2O
reactant | hydrochloric acid | 244 mmol, 20 ml | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | 6-(piperidin-4-yl)thieno[3,2-b]pyridin-5(4H)-one | 4.85 g, 97% | N1CCC(CC1)C1=CC2=C(NC1=O)C=CS2 | C12H14N2OS
